Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm ___ of God"
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
History was noted from Dr. ___ Dr. ___ consult 
notes from ___ and ___, and subsequent psychiatry CL 
notes in ___, confirmed with patient and updated as relevant:
. 
Briefly, patient is a ___ ___ student originally 
from ___ with no formal medical or psychiatric history 
who was ___ EMS following her initial presentation (and 
discharge) from the ___ for symptoms suggestive of mania with 
psychotic features.
. 
Patient was initially evaluated for hyperexcitability and 
hyperreligiousity but was felt inappropriate for inpatient level 
of care and was discharged to outpatient care. She returned when 
her mother and her friends expressed concern that she seemed 
more delusional and bizarre. The patient on presentation 
endorsed heightened energy, racing thoughts, decreased need for 
sleep, decreased appetite, and grandiosity with the possession 
of unique powers having died and been resurrected as ___ of 
God. Collateral per family at that time suggested that the 
patient, consumed by religious
preoccupation, had attempted to flee the home of a friend with 
whom she had been staying attempting to find someone who could 
"help her." No concern for substance use, though patient 
endorsed to ___ resident that she had smoked marijuana 6 days or 
___ years ago; no concern for SI or HI. Reportedly the patient 
experienced a similar episode in ___ year of high school 
which
resolved spontaneously.
. 
On interview, patient states that she recently discovered that 
she was ___ of God born to save humanity. She says that God 
suggested the idea to her on ___ and it has taken her a week to 
realize it, following clues in the Qu'ran. She states that she 
was made frightened by her stay in the ___, "forced to take 
medication" when she knows that "nothing's wrong", though, while 
certain she's been resurrected, can appreciate that her friends 
and family find this idea "bizarre", and believes they acted in 
her best interest when they brought her to the ___. She says that 
she has not slept or eaten in over a week stating "I receive 
energy from reading the ___'ran", without need for rest or food, 
and has not recently been attending classes.  She denies AVH 
saying "I don't know why people keep asking me that- God doesn't 
talk to me", emphasizing again that God speaks to her through 
her
___ book; she denies paranoia, though does state that she 
doesn't know who to confide in, and volunteers no additional 
delusions.  
. 
She complains of frequent "mood swings" alternating between joy 
and despair which can be uncomfortable as they appear to be 
unpredictable- she assures this writer that, despite the 
discomfort, she tends to experience more "joy" than distress. 
She denies having experienced a similar constellation of 
symptoms in the past and additionally denies past episodes 
consistent with
depression or psychosis, admitting that she has been smoking 
"more marijuana that [she] probably should have" since ___ 
of last year- she is, unfortunately, unable to provide more 
detail, saying "I have no sense of time", and is shocked to 
discover that it is no longer ___, explaining how slowly time 
seems to be moving.  
. 
Patient was intermittently agitated in the ___ but required no 
physical or chemical restraints.  
. 
___ 22:24 PO Lorazepam 1 mg 
___ 08:47 PO/NG LORazepam .5 mg 
___ 14:47 PO RisperiDONE .5 mg 
___ 20:10 PO RisperiDONE .5 mg 
___ 20:10 PO/NG LORazepam .5 mg   
___ 22:33 PO RisperiDONE 1 mg 
___ 22:33 PO/NG LORazepam 1 mg   
___ 22:33 PO/NG DiphenhydrAMINE 50 mg   
. 
Psychiatric ROS: 
- Depression - denies symptoms including anhedonia, 
hopelessness, guilt, fatigue, difficulty concentrating, changes 
in appetite, and sleep disturbances.
- Psychosis - denies hallucinations (auditory, visual, 
olfactory, or tactile) and paranoia, prominent hyperreligious 
delusions. 
- Mania- endorses symptoms of elevated mood and irritability, 
racing thoughts, and decreased need for sleep.
- Anxiety - denies symptoms including panic attacks or 
agoraphobia.
  
ROS: Endorses occasional dizziness on standing.  ROS otherwise
negative.
 
Past Medical History:
Past psychiatric history: Patient denies any past psychiatric 
history including hospitalization, diagnoses, treaters, or 
medication trials. She denies attempts at self-harm or harm to 
others.
.   
Past medical history: Denies

 
Social History:
___
Family History:
None
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T 98.1 | BP 149/76 | HR 94 | RR 16 | SpO2 100% RA

General: Well-nourished age-appearing female in NAD.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTAB. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, place, situation, oriented to
time but not to date
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Speech: normal rate, tone, and prosody, mildly pressured quality
to her speech
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: Casually groomed young age-appearing female wearing
___ sweats
Behavior: Calm, cooperative, pleasant, engaged, good eye 
contact,
sitting either cross-legged on the exam table or squatting on 
her
chair, but without PMR or PMA
Mood and Affect: "Great!" / Euthymic, mood-congruent, full range
Thought Process: Fairly linear, coherent, goal-oriented, no LOA
Thought Content: Denies SI/HI/AH/VH, denies paranoia, prominent
religious delusions
Judgment and Insight: poor/poor
 
Pertinent Results:
 ___: Na: 140 (New reference range as of ___
 ___: K: 4.7 (New reference range as of ___
 ___: Cl: 103
 ___: CO2: 20*
 ___: BUN: 11
 ___: Creat: 0.8
 ___: Glucose: 93 (If fasting, 70-100 normal, >125
provisional diabetes)
 ___: WBC: 14.6*
 ___: HGB: 12.8
 ___: HCT: 38.2
 ___: Plt Count: 282
 ___: Urine Glucose (Hem): NEG
 ___: Urine Protein (Hem): 30*
 ___: Urine Bilirubin (Hem): NEG
 ___: Urobilinogen: NEG
 ___: Urine Ketone (Hem): 10*
 ___: Urine Blood (Hem): MOD*
 ___: Urine Nitrite (Hem): NEG
 ___: Urine Leuks (Hem): NEG
 
-Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
-Serum tox: Negative for aspirin, benzos, barbituates, ethanol,
TCAs and acetaminophen.

 
Brief Hospital Course:
This is a ___ year old single ___ student originally 
from ___ with no formal medical or psychiatric history 
who was ___ EMS following her initial presentation (and 
discharge) from the ___ for symptoms suggestive of mania with 
psychotic features.  The patient endorses more than one week of 
racing thoughts, decreased need for sleep, predominantly 
euphoric mood with irritability, decreased appetite, and 
religious delusion that she is a recently resurrected ___ of 
God here to save humanity in the setting of cannabis use
. 
#. Legal/Safety: Patient admitted to ___ for on a ___, upon admission she initially declined to sign a CV, but did 
sign one on ___, which was accepted. She maintained her safety 
throughout her admission on 15 minute checks and did not require 
physical or chemical restraints. 
. 
#. Psychosis: as noted above 
- Patient was compliant in attending groups and meeting with her 
treatment team. 
- Further collateral from friends and family was notable for 
patient being at her baseline on the weekend prior to 
presentation with acute decompensation over several days with 
disorganized thought process, paranoia in the setting of 
cannabis use. 
- After discussion of the risks and benefits, patient was 
started on Zyprexa titrated to 7.5 mg po qhs, which she 
tolerated well with a slight headache after receiving her first 
dose. She was also offered Ativan 1 mg prn for insomnia and 
anxiety. 
- In the setting of sobriety and initiation of Zyprexa, Ms. 
___ condition improved rapidly. She was noted to be 
significantly less labile and paranoid with softening of her 
grandiose delusions, improved sleep and appetite, and thought 
process that was notably linear, goal and future oriented by 
time of discharge. Of note, she consistently denied SI/HI, AVH 
during her admission. Her mother flew to ___ to care for her 
daughter and agreed the patient's condition had improved 
substantially. Both mother and daughter were agreeable to 
continuing her medication with follow up with a PHP following 
discharge and eventual plan to return to ___ with her 
family later in ___. 
- Of note, I counseled the patient and her mother extensively on 
the risk of using drugs, particularly cannabis as well as the 
elevated risk of Ms. ___ developing bipolar or 
schizophrenia in the future. I counseled the family on the need 
for close monitoring following discharge including symptoms of 
depression, mania and psychosis. 
- Patient and her mother were provided with appointments for 
follow up with student health for ___ to discuss her 
different academic options. 
. 
#. Cannabis use: as noted above.
.
#. Leukocytosis: Patient without signs of infection; likely 
secondary to stress reaction. 
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LORazepam 1 mg PO BID PRN anxiety, insomnia, agitation  
RX *lorazepam [Ativan] 1 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
2.  OLANZapine 7.5 mg PO QPM 
RX *olanzapine 5 mg 0.5-1.5 tablet(s) by mouth as directed Disp 
#*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Substance induced psychotic disorder 
 
Discharge Condition:
VS: T 97.3 | BP 155 / 110 | HR 66 | RR 17 | SpO2 95% RA
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: Normal rate, volume, prosody, goal directed
M: 'Good!'
A: Euthymic, mood congruent, appropriate
TC: Denies suicidal ideation, homicidal ideation, auditory or 
visual hallucinations
TP: Linear, goal and future oriented
C: Awake, alert, responds to questions appropriately
I/J: improved/improved

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___